US06407111B1
a) 6-Chloro-4-phenoxy-nicotinic acid ethyl ester
To a solution of 196 mg (ca. 4 mmol) sodium hydride dispersion in mineral oil (ca. 50%) in 15 ml N,N-dimethylformamide a solution of 385 mg (4.09 mmol) phenol in 10 ml N,N-dimethylformamide was added dropwise at room temperature under argon. After 15 min. this solution was slowly added via cannula to a solution of 4,6-dichloro-nicotinic acid ethyl ester in 20 ml N,N-dimethylformamide at room temperature. After 2 h the reaction was quenched with 20 ml water. The mixture was extracted with 3 50-ml portions of ethyl acetate. The combined organic extracts were dried with sodium sulfate and concentrated. After drying in high vacuo at 50° C. and flash column chromatography 800 mg (70.4%) of the title compound was obtained as a white solid. As a side product 130 mg (11.4%) 4-chloro-6-phenoxy-nicotinic acid ethyl ester were also isolated.

reactant | sodium hydride | ca. 4 mmol, 196 mg | [H-].[Na+]
reactant | phenol | 4.09 mmol, 385 mg | C1(=CC=CC=C1)O | C6H6O
reactant | 4,6-dichloro-nicotinic acid ethyl ester | C(C)OC(C1=CN=C(C=C1Cl)Cl)=O | C8H7Cl2NO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-Chloro-4-phenoxy-nicotinic acid ethyl ester | 800 mg, 70.4% | C(C)OC(C1=CN=C(C=C1OC1=CC=CC=C1)Cl)=O | C14H12ClNO3
